datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCCCCCC[NH:10]CCC(=O)[O-].[NH3+]CC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O:21][H:20]>>CCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].[NH3+]CC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O-:21] 10=20;20,21=21",
"CC(C(=O)[O-])[S-:10].O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CC(C(=O)[O-])[S:10][H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC(C)CN(CC(C)C)C(=S)[S:21][H:20].Oc1ccccc1C[NH:10]C1CCCCC1>>CC(C)CN(CC(C)C)C(=S)[S-:21].Oc1ccccc1C[NH+:10](C1CCCCC1)[H:20] 10=20;20,21=21",
"CCCCCCCC[N:10](CCO)CC(O)CC.CSC(=S)NCC(=O)[O:21][H:20]>>CCCCCCCC[N+:10](CCO)(CC(O)CC)[H:20].CSC(=S)NCC(=O)[O-:21] 10=20;20,21=21",
"CC(C)[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC#CCC(=O)[O-:10].O=C(CCC[N+:21]1([H:20])CCOCC1)c1ccccc1>>CC#CCC(=O)[O:10][H:20].O=C(CCC[N:21]1CCOCC1)c1ccccc1 10=20;20,21=21",
"CC(C)(C)[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)(C)[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC1(C)OC(=O)C[C@@H]2[C@H]1C[NH:10][C@@H]2C(=O)[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1(C)OC(=O)C[C@@H]2[C@H]1C[NH+:10]([H:20])[C@@H]2C(=O)[O-].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC/C=C/C(=O)[O:21][H:20].O=S(=O)(Nc1cccnn1)c1ccc([NH2:10])cc1>>CC/C=C/C(=O)[O-:21].O=S(=O)(Nc1cccnn1)c1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(C)(C)[NH:10]C1CCCCC1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)(C)[NH+:10](C1CCCCC1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Oc1ccc2c[n:10]c3ccccc3c2c1.c1cn[nH+]c([O:21][H:20])c1>>Oc1ccc2c[n+:10]([H:20])c3ccccc3c2c1.c1cn[nH+]c([O-:21])c1 10=20;20,21=21",
"C=CC[NH+](CC=C)CCC[N:10](CC=C)CC=C.c1nc2cc([O:21][H:20])ccc2[nH]1>>C=CC[NH+](CC=C)CCC[N+:10](CC=C)(CC=C)[H:20].c1nc2cc([O-:21])ccc2[nH]1 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O-:10].Cn1ncc2c(NCc3ccco3)nc[n+:21]([H:20])c21>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O:10][H:20].Cn1ncc2c(NCc3ccco3)nc[n:21]c21 10=20;20,21=21",
"COc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(C)cc3)o2)cc1.NC(NOCC(=O)[O-])=[NH:10]>>COc1ccc(-c2c[n:21]c(-c3ccc(C)cc3)o2)cc1.NC(NOCC(=O)[O-])=[NH+:10][H:20] 10=20;20,21=21",
"Cc1ccccc1C(c1ccccc1C)=[N+:21](CCC[NH+](C)C)[H:20].c1ccc2c(c1)CC(=[NH:10])N2>>Cc1ccccc1C(c1ccccc1C)=[N:21]CCC[NH+](C)C.c1ccc2c(c1)CC(=[NH+:10][H:20])N2 10=20;20,21=21",
"C[N-]C(=O)Oc1ccc2c(c1)[C@@]1(C)CC[N:10](C)[C@H]1N2C.O=[N+]([O-])c1cccc(S(=O)[O:21][H:20])c1>>C[N-]C(=O)Oc1ccc2c(c1)[C@@]1(C)CC[N+:10](C)([H:20])[C@H]1N2C.O=[N+]([O-])c1cccc(S(=O)[O-:21])c1 10=20;20,21=21",
"CCC[N:10](CCC)Cc1ccccc1O.C[N+:21](C)(CCC(c1ccc(Cl)cc1)c1ccccn1)[H:20]>>CCC[N+:10](CCC)(Cc1ccccc1O)[H:20].C[N:21](C)CCC(c1ccc(Cl)cc1)c1ccccn1 10=20;20,21=21",
"COC(=O)CC[S-:10].Fc1ccccc1[NH2+:21][H:20]>>COC(=O)CC[S:10][H:20].Fc1ccccc1[NH2:21] 10=20;20,21=21",
"CC(C)c1cccc(C(=O)[O-:10])c1.COc1ccc(/C=C/C(=O)[O:21][H:20])cc1>>CC(C)c1cccc(C(=O)[O:10][H:20])c1.COc1ccc(/C=C/C(=O)[O-:21])cc1 10=20;20,21=21",
"CCSC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])C=C1>>CCSC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"C[C@@H]1[C@H](C)[NH+:21]1[H:20].[NH3+]CCCCCCC#CC#CCCC(=O)[O-:10]>>C[C@@H]1[C@H](C)[NH:21]1.[NH3+]CCCCCCC#CC#CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C[NH3+])[Se-:10].Oc1cccc([NH2+:21][H:20])c1>>CC(C[NH3+])[Se:10][H:20].Oc1cccc([NH2:21])c1 10=20;20,21=21",
"CC(C)S/C(c1ccccc1)=[NH+:21]\[H:20].Cc1ccc2c(c1)nc(CO)[n-:10]2>>CC(C)SC(c1ccccc1)=[NH:21].Cc1ccc2c(c1)nc(CO)[n:10]2[H:20] 10=20;20,21=21",
"NC(=O)CCc1ccc[n:10]c1.c1ccc2sc(/N=N/c3ccc([O:21][H:20])c4ncccc34)nc2c1>>NC(=O)CCc1ccc[n+:10]([H:20])c1.c1ccc2sc(/N=N/c3ccc([O-:21])c4ncccc34)nc2c1 10=20;20,21=21",
"Cc1cc(C2(c3ccc([O:21][H:20])c(C)c3)OS(=O)(=O)c3c(Br)c(Br)c(Br)c(Br)c32)ccc1O.N#C/C(=N\[O-:10])C(N)=O>>Cc1cc(C2(c3ccc([O-:21])c(C)c3)OS(=O)(=O)c3c(Br)c(Br)c(Br)c(Br)c32)ccc1O.N#C/C(=N\[O:10][H:20])C(N)=O 10=20;20,21=21",
"CCCCNc1ncnc2c1cn[n:21]2[H:20].Cc1cc(C)c(/N=N/c2c(C)cc([O-:10])cc2C)c(C)c1>>CCCCNc1ncnc2c1cn[n-:21]2.Cc1cc(C)c(/N=N/c2c(C)cc([O:10][H:20])cc2C)c(C)c1 10=20;20,21=21",
"COc1c[n:10]ccc1N.Cc1ccc(CCC(=O)[O:21][H:20])cc1>>COc1c[n+:10]([H:20])ccc1N.Cc1ccc(CCC(=O)[O-:21])cc1 10=20;20,21=21",
"COCC[O-:10].C[C:21](C)(C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>COCC[O:10][H:20].C[C-:21](C)C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"C[n+]1cccc2c([S:21][H:20])cccc21.Cn1c[n:10]c2ncncc21>>C[n+]1cccc2c([S-:21])cccc21.Cn1c[n+:10]([H:20])c2ncncc21 10=20;20,21=21",
"CCc1ccc(C)n[n+:21]1[H:20].S=C(c1ccccc1)[N-:10]Cc1ccccc1>>CCc1ccc(C)n[n:21]1.S=C(c1ccccc1)[N:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"CC(C)(C)[C@]1(O)CC[N:10]2C[C@H]3c4ccccc4CCc4cccc(c43)[C@@H]2C1.c1ccc(CNc2scc[n+:21]2[H:20])cc1>>CC(C)(C)[C@]1(O)CC[N+:10]2([H:20])C[C@H]3c4ccccc4CCc4cccc(c43)[C@@H]2C1.c1ccc(CNc2scc[n:21]2)cc1 10=20;20,21=21",
